US07144899B2
HCl gas was bubbled through a stirred 0° C. solution of 1-{(2R)-2-[(tert-butoxycarbonyl)amino]-2-cyclohexylethanoyl}-N-[5-chloro-2-(4-chloro-1,2,5-thiadiazol-3-yl)benzyl]-L-prolinamide (41.1 mg, 0.07 mmol) in CH2Cl2 (1.0 mL) for 15 min. The solution was reduced in vacuo. The resulting solid was triturated with EtOAc and filtered. 1-[(2R)-2-Amino-2-cyclohexylethanoyl]-N-[5-chloro-2-(1,2,5-thiadiazol-3-yl)benzyl]-L-prolinamide hydrochloride was isolated as a solid. 1H NMR (CD3OD 400 MHz) δ 1.30 (m, 6H), 1.74 (m, 2H), 1.86 (m, 4H), 2.02 (m, 2H), 2.23 (m, 1H), 3.62 (m, 1H), 3.75 (m,1H), 3.98 (d, J=6.0 Hz, 1H), 4.42 (m, 1H), 4.64 (s, 2H), 7.46 (dd, J=2.2, 8.2 Hz, 1H), 7.62 (s, 1H), 7.74 (d, J=8.2 Hz, 1H), 8.99 (s, 1H): MS m/z=462.6.

reactant | HCl | Cl | ClH
reactant | 1-{(2R)-2-[(tert-butoxycarbonyl)amino]-2-cyclohexylethanoyl}-N-[5-chloro-2-(4-chloro-1,2,5-thiadiazol-3-yl)benzyl]-L-prolinamide | 0.07 mmol, 41.1 mg | C(C)(C)(C)OC(=O)N[C@@H](C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)C2=NSN=C2Cl)CCC1)C1CCCCC1 | C27H35Cl2N5O4S
solvent | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
product | 1-[(2R)-2-Amino-2-cyclohexylethanoyl]-N-[5-chloro-2-(1,2,5-thiadiazol-3-yl)benzyl]-L-prolinamide hydrochloride | Cl.N[C@@H](C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)C2=NSN=C2)CCC1)C1CCCCC1 | InChI=1S/C22H28ClN5O2S.ClH/c23-16-8-9-17(18-13-26-31-27-18)15(11-16)12-25-21(29)19-7-4-10-28(19)22(30)20(24)14-5-2-1-3-6-14;/h8-9,11,13-14,19-20H,1-7,10,12,24H2,(H,25,29);1H/t19-,20+;/m0./s1
